US04169202
3-Hydroxy-3-phenyl-2-butanone(II: R2 = Me, R1 = Ph and R3 = H).
The title compound is prepared by using a modified method of G. F. Hennion and B. R. Fleck, J. Amer. Chem. Soc., 77,3258(1955). To a mixture of methanol (5 ml), water (0.2 ml), sulfuric acid (100 mg), and mercuric sulfate (100 mg) is added at 55° C. a solution of 3-hydroxy-3-phenyl-1-butyne (2 g) in 90% aqueous methanol (5 ml) over a period of 90 min. The reaction is slightly exothermic, and the inside temperature is maintained at 55°-57° C. During the reaction time, 50 mg of mercuric sulfate is added. When addition of the acetylenic component is complete, another portion (50 mg) of mercuric sulfate is added, and the mixture is stirred at 55° C. for 1 hour. During this time 1 ml of water is added. After cooling, the reaction mixture is poured into ice-water and extracted with diethyl ether. The combined extracts are washed with water, dried over magnesium sulfate, filtered and evaporated. The resultant oil is chromatographed on silica gel using benzene. The appropriate eluates are evaporated to give 0.5g of the title compound, ir(CHCl3)3450 and 1741 cm-1 and nmr(CDCl3) δ 1.75(s), 2.08(s), 4.50(s) and 7.40(m).

reactant | water | 0.2 ml | O | H2O
reactant | sulfuric acid | 100 mg | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-3-phenyl-1-butyne | 2 g | OC(C#C)(C)C1=CC=CC=C1 | C10H10O
reactant | water | 1 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 3-Hydroxy-3-phenyl-2-butanone | 0.5g | OC(C(C)=O)(C)C1=CC=CC=C1 | C10H12O2
